US06699904B2
To a solution of 3-{4-[2-(tert-butoxycarbonyl-heptyl-amino)-ethyl]-phenyl}-2-hydroxy-propionic acid ethyl ester (0.59 mmol, 250 mg) was added anhydrous CsOH (0.885 mmol, 148.6 mg) and freshly dried powdered 4 Angstrom molecular sieves (300 mg) followed by benzyl bromide (4.72 mmol, 0.56 mL). The mixture was allowed to stir for 16 hours. The mixture was poured into water and extracted with diethyl ether (3×). The organic layers were combined, washed with water (2×), brine (2×), dried over Na2SO4, and concentrated to a crude oil. The oil was purified by chromatography on silica gel (Merck silica gel 60, art#9385-3) eluting with 20% ethyl acetate in hexanes to give 2-benzyloxy-3-{4-[2-(tert-butoxycarbonyl-heptyl-amino)-ethyl]-phenyl}-propionic acid ethyl ester as a clear oil (180 mg, 58%).

reactant | 3-{4-[2-(tert-butoxycarbonyl-heptyl-amino)-ethyl]-phenyl}-2-hydroxy-propionic acid ethyl ester | 0.59 mmol, 250 mg | C(C)OC(C(CC1=CC=C(C=C1)CCN(CCCCCCC)C(=O)OC(C)(C)C)O)=O | C25H41NO5
reactant | benzyl bromide | 4.72 mmol, 0.56 mL | C(C1=CC=CC=C1)Br | C7H7Br
solvent | water | O | H2O
product | 2-benzyloxy-3-{4-[2-(tert-butoxycarbonyl-heptyl-amino)-ethyl]-phenyl}-propionic acid ethyl ester | 180 mg, 58% | C(C)OC(C(CC1=CC=C(C=C1)CCN(CCCCCCC)C(=O)OC(C)(C)C)OCC1=CC=CC=C1)=O | C32H47NO5
